US08426598B2
Ethyl 5-fluoro-4-oxo-1-{4-[4-(2,2,2-trifluoro-1-hydroxyethyl)-1H-pyrazol-1-yl]benzyl}-1,4-dihydroquinoline-3-carboxylate
To a solution of ethyl 5-fluoro-1-[4-[4-formyl-1H-pyrazol-1-yl)benzyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate (0.100 g, 0.238 mmol) in 2 mL of dichloromethane was added trimethyl(trifluoromethyl)silane (0.045 g, 0.25 mmol) and cesium fluoride (3.6 mg, 0.024 mmol). After 3 hours, 4 N HCl (0.36 mL, 1.4 mmol) was added. After 1 hour, the reaction mixture was diluted with an additional 20 mL dichloromethane and washed with water and brine. The organic extracts were dried, filtered and concentrated in vacuo to provide the title compound (crude) which gave a mass ion (ES+) of 489.9 for M+H+. This compound could be further hydrolyzed to the corresponding carboxylic acid, as described in Example 1.

reactant | ethyl 5-fluoro-1-[4-[4-formyl-1H-pyrazol-1-yl)benzyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | 0.238 mmol, 0.100 g | FC1=C2C(C(=CN(C2=CC=C1)CC1=CC=C(C=C1)N1N=CC(=C1)C=O)C(=O)OCC)=O | C23H18FN3O4
reactant | trimethyl(trifluoromethyl)silane | 0.25 mmol, 0.045 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | cesium fluoride | 0.024 mmol, 3.6 mg | [F-].[Cs+]
reactant | HCl | 1.4 mmol, 4 N, 0.36 mL | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl 5-fluoro-4-oxo-1-{4-[4-(2,2,2-trifluoro-1-hydroxyethyl)-1H-pyrazol-1-yl]benzyl}-1,4-dihydroquinoline-3-carboxylate | FC1=C2C(C(=CN(C2=CC=C1)CC1=CC=C(C=C1)N1N=CC(=C1)C(C(F)(F)F)O)C(=O)OCC)=O | C24H19F4N3O4
